US06762180B1
(7) 4-[N-(2-dimethylamino-ethyl)-N-acetyl-amino]-1,3-dinitrobenzene
Prepared from 4-(2-dimethylamino-ethyl-amino)-1,3-dinitrobenzene and acetyl chloride

reactant | 4-(2-dimethylamino-ethyl-amino)-1,3-dinitrobenzene | CN(CCNC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])C | C10H14N4O4
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 4-[N-(2-dimethylamino-ethyl)-N-acetyl-amino]-1,3-dinitrobenzene | CN(CCN(C(C)=O)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])C | C12H16N4O5
